US06916819B2
To a solution of 6-isopropyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine (160 mg, 0.493 mmol) in DMF (1.0 mL) at room temperature under N2 is added Cs2CO3 (168 mg, 0.518 mmol) followed by iodoethane (0.047 mL, 0.592 mmol). The mixture is stirred at room temperature for 1 h and then diluted with water and extracted twice with CH2Cl2. The combined extracts are dried over K2CO3 and concentrated. The residue is purified by preparative TLC, developing with 15:1 CHCl3-MeOH (+0.5% Et3N). The less polar (top) band affords 3-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-3H-imidazo[4,5-c]pyridine. 1H NMR (CDCl3, 300 MHz) δ 8.70 (d, J=1.2 Hz, 1H), 7.83 (d, J=3.0 Hz, 1H), 7.53 (d, J=0.9 Hz, 1H), 7.39 (d, J=3.0 Hz, 1H), 7.18 (d, J=0.9 Hz, 1H), 7.14 (d, J=0.9 Hz, 1H), 6.32 (s, 2H), 4.32 (q, J=7.2 Hz, 2H), 3.18 (sept, J=6.9 Hz, 1H), 1.34 (d, J=6.9 Hz, 6H), 1.17 (t, J=7.2 Hz, 3H) ppm. The more polar (bottom) band affords 74 mg (43%) of 1-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-1H-imidazo[4,5-c]pyridine. 1H NMR (CDCl3, 300 MHz) δ 9.01 (s, 1H), 7.83 (d, J=3.2 Hz, 1H), 7.38 (d, J=3.2 Hz, 1H), 7.15 (8, 1H), 7.12 (s, 1H), 7.09 (s, 1H), 6.32 (s, 2H), 4.21 (q, J=7.2 Hz, 2H), 3.17 (sept, J=6.8 Hz, 1H), 1.34 (d, J=6.8 Hz, 6H), 1.10 (t, J=7.2 Hz, 3H) ppm.

reactant | 6-isopropyl-2-(2-thiazol-2-yl-imidazol-1-ylmethyl)-1H-imidazo[4,5-c]pyridine | 0.493 mmol, 160 mg | C(C)(C)C1=CC2=C(C=N1)N=C(N2)CN2C(=NC=C2)C=2SC=CN2 | C16H16N6S
reactant | Cs2CO3 | 0.518 mmol, 168 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodoethane | 0.592 mmol, 0.047 mL | ICC | C2H5I
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-ethyl-6-isopropyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-3H-imidazo[4,5-c]pyridine | C(C)N1C(=NC2=C1C=NC(=C2)C(C)C)CN2C(=NC=C2)C=2SC=CN2 | C18H20N6S
